US06642264B1
Imidazole (24 g) and t-butyldiphenylsilyl chloride (96 g) were added to DMF (300 ml) solution of 5-hydroxymethyl-2-mercaptobenzoimidazole (60 g), and the mixture was stirred at room temperature for 2 hours. Next, this was mixed with MeOH (50 ml) and stirred and then mixed with water and diisopropyl ether and further stirred. The precipitate was collected by filtration and washed with water and diisopropyl ether to obtain 5-(t-butyldiphenylsilyloxymethyl)-2-mercaptobenzoimidazole (107 g). Next, 2-butanone (300 ml) solution of this compound (21 g) and ethyl 2-chloroacetoacetate (11 ml) was heated under reflux for 2 hours. The reaction mixture was concentrated under a reduced pressure, neutralized with saturated NaHCO3 aqueous solution and then extracted with EtOAc and washed with water and saturated brine. After drying with anhydrous MgSO4, the solvent was evaporated under a reduced pressure, and the resulting residue was purified by a silica gel column chromatography (to be referred to as column chromatography hereinafter) (eluent; n-hexane (to be referred to as Hex hereinafter):EtOAc=3:1-2:1), thereby obtaining ethyl 2-[(5-t-butyldiphenylsilyloxymethylbenzoimidazol-2-yl)thio]acetoacetate (23 g). Next, a DMF (300 ml) solution containing this compound, acetic acid formic acid anhydride (5.5 g) and Py (8.4 ml) was heated and stirred at 75° C. for 2 hours. The reaction mixture was concentrated under a reduced pressure while heating, diluted with EtOAc, washed with saturated NaHCO3 aqueous solution, water and saturated brine and then dried with anhydrous MgSO4, subsequently evaporating the solvent under a reduced pressure. The resulting residue was purified by a column chromatography (eluent; Hex:EtOAc=5:1-4:1) to obtain the title compound (16 g).

reactant | Imidazole | 24 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldiphenylsilyl chloride | 96 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | 5-hydroxymethyl-2-mercaptobenzoimidazole | 60 g | OCC1=CC2=C(N=C(N2)S)C=C1 | C8H8N2OS
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | water | O | H2O
solvent | MeOH | 50 ml | CO | CH4O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 5-(t-butyldiphenylsilyloxymethyl)-2-mercaptobenzoimidazole | 107 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC2=C(N=C(N2)S)C=C1 | C24H26N2OSSi
